US07579341B2
A2a) ethyl 3-[4-(4-benzyl-piperazin-1-yl)-piperidin-1-yl]-propionate
5.5 mL (50.8 mmol) ethyl acrylate were added to a solution of 11.7 g (44.9 mmol) 1-benzyl-4-piperidin-4-yl-piperazine in 120 mL dry EtOH and the reaction mixture was refluxed for 1 h and then stirred overnight at RT. The solvent was eliminated i. vac. and the residue was dried for 1 h under an oil pump vacuum. The crude product was reacted further without purification.

reactant | ethyl acrylate | 50.8 mmol, 5.5 mL | C(C=C)(=O)OCC | C5H8O2
reactant | 1-benzyl-4-piperidin-4-yl-piperazine | 44.9 mmol, 11.7 g | C(C1=CC=CC=C1)N1CCN(CC1)C1CCNCC1 | C16H25N3
solvent | EtOH | 120 mL | CCO | C2H6O
product | ethyl 3-[4-(4-benzyl-piperazin-1-yl)-piperidin-1-yl]-propionate | C(C1=CC=CC=C1)N1CCN(CC1)C1CCN(CC1)CCC(=O)OCC | C21H33N3O2
